US07125900B2
N-(5-Acetyl-4-methyl-1,3-thiazol-2-yl)-2,6-dichlorobenzenesulfonamide
The title compound was prepared from 5-acetyl-2-amino-4-methylthiazole (42 mg) and-2,6-dichlorobenzenesulfonyl chloride (66 mg) as described in the synthetic METHOD B to give a white solid (21.4 mg) with purity >90%: MS (pos) m/z 365.3, 367.3.

reactant | 5-acetyl-2-amino-4-methylthiazole | 42 mg | C(C)(=O)C1=C(N=C(S1)N)C | C6H8N2OS
reactant | 2,6-dichlorobenzenesulfonyl chloride | 66 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | N-(5-Acetyl-4-methyl-1,3-thiazol-2-yl)-2,6-dichlorobenzenesulfonamide | C(C)(=O)C1=C(N=C(S1)NS(=O)(=O)C1=C(C=CC=C1Cl)Cl)C | C12H10Cl2N2O3S2
